US07244730B2
(Step 1) 4-(Azidomethyl)-2-ethoxy-5-(1-ethynyl)benzamide
After dissolving 4-(azidomethyl)-5-cyano-2-ethoxybenzoic acid (0.7 g, 2.85 mmol) in tetrahydrofuran (15 ml), triethylamine (0.48 ml, 3.42 mmol) and ethyl chloroformate (0.3 ml, 3.14 mmol) were added while cooling on ice. The mixture was stirred for 10 minutes while cooling on ice, and then 27% aqueous ammonia (10 ml) was added and the mixture was stirred at room temperature for 10 minutes. Water (30 ml) was added to the reaction mixture, extraction was performed with ethyl acetate (20 ml×3), and then after washing the combined organic layers with brine (30 ml) and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The obtained crude product (0.68 g) was used directly for the following reaction.

reactant | 4-(azidomethyl)-5-cyano-2-ethoxybenzoic acid | 2.85 mmol, 0.7 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)O)C=C1C#N)OCC | C11H10N4O3
reactant | triethylamine | 3.42 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.14 mmol, 0.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 10 ml | N | H3N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 30 ml | O | H2O
product | 4-(Azidomethyl)-2-ethoxy-5-(1-ethynyl)benzamide | 0.68 g | N(=[N+]=[N-])CC1=CC(=C(C(=O)N)C=C1C#C)OCC | C12H12N4O2
